US08420655B2
To a solution of [5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-phenyl]-methanol plus regiosiomer (600 mg, 2.90 mmol) in CH2Cl2 (20.0 mL) is added MnO2 (750 mg, 8.63 mmol). The reaction mixture is stirred at room temperature for 72 hours and is filtered through diatomaceous earth. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 6% MeOH in CH2Cl2 as the eluent to afford 5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-benzaldehyde plus regioisomer (475 mg, 80%).

reactant | [5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-phenyl]-methanol | FC=1C=CC(=C(C1)CO)C=1N(N=CN1)C | C10H10FN3O
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 8.63 mmol, 750 mg | O=[Mn]=O
product | 5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-benzaldehyde | FC=1C=CC(=C(C=O)C1)C=1N(N=CN1)C | C10H8FN3O
